US04617303
(a) 2-acetyl-5-(n-nonyloxy)-valeronitrile
35.0 g (156 millimoles) of 5-(n-nonyloxy)-valeronitrile in 500 ml of absolute tetrahydrofuran are initially taken, in the absence of water and under an inert gas atmosphere, and the mixture is cooled to -60° C. 162 millimoles of n-butyl-lithium in n-hexane are slowly added to the stirred mixture, which is then left for 4 hours at -60° C. A solution of 13.1 g (155 millimoles) of dry ethyl acetate in tetrahydrofuran is then added dropwise, stirring is continued for 3 hours at -60° C., and the mixture is allowed to warm up slowly to room temperature. First water and then 2N hydrochloric acid are added while cooling with ice, until the pH of the solution reaches 4. The organic phase which separates out is isolated, washed with water, dried and evaporated down. The oil which remains (41 g; 99%) is more than 90% pure according to gas chromatography, and can be reacted without further purification.

reactant | 5-(n-nonyloxy)-valeronitrile | 156 millimoles, 35.0 g | C(CCCCCCCC)OCCCCC#N | C14H27NO
reactant | n-butyl-lithium | 162 millimoles | C(CCC)[Li]
reactant | ethyl acetate | 155 millimoles, 13.1 g | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-acetyl-5-(n-nonyloxy)-valeronitrile | C(C)(=O)C(C#N)CCCOCCCCCCCCC | C16H29NO2
